US07179823B1
Methanesulfonyl chloride (3.37 g) was added dropwise to a mixture of 2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]ethan-1-ol (7.0 g), triethylamine (2.97 g), and ethyl acetate (300 ml) at 0° C., and the mixture was stirred for 3 hours at room temperature. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium bicarbonate, 1N hydrochloric acid and then with saturated aqueous sodium chloride solution, then dried (MgSO4), and concentrated. The crystals obtained were collected by filtration to yield 2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]ethyl methanesulfonate (8.44 g, yield: 96%). This was recrystallized from ethyl acetate-hexane. Melting point: 66–67° C.

reactant | Methanesulfonyl chloride | 3.37 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]ethan-1-ol | 7.0 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)CCO | C19H19NO3
reactant | triethylamine | 2.97 g | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]ethyl methanesulfonate | 8.44 g, yield: 96% | CS(=O)(=O)OCCC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C20H21NO5S
